### PR TITLE
feat(GreensOpenProblems): 27

### LINKED ISSUE #1562: Green's Open Problems #27
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.27

What is the size of the smallest set $A \subset \mathbb{Z} / p\mathbb{Z}$ (with at least two elements) for which no element in the sumset $A + A$ has a unique representation?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
What is the size of the smallest set $A \subset \mathbb{Z} / p\mathbb{Z}$ (with at least two elements) for which no element in the sumset $A + A$ has a unique representation?

- Closes #1562 
- Proposes to improve on best-known bounds from [Be23], similar to the formalization of Erdős 507
- Also includes previous best bounds as intermediate proofs

# Testing
- Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/27.lean 
Build completed successfully (7975 jobs).
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 1]
```diff
@@ -0,0 +1,109 @@
...
+
+open Asymptotics Filter
+
+namespace Green27
+/--
+A set `A` has no unique representation in its sumset `A + A` if for every pair of elements
+`a₁, a₂ ∈ A`, there exist another pair of elements `b₁, b₂ ∈ A` such that `a₁ + a₂ = b₁ + b₂`
+and `{a₁, a₂} ≠ {b₁, b₂}`.
+-/
+def HasNoUniqueRepresentation {G : Type*} [AddCommMonoid G] (A : Finset G) : Prop :=
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]: https://github.com/google-deepmind/formal-conjectures/blob/63e268d51b6453a8cf4f4ac5072cc6893cbf5457/FormalConjectures/ErdosProblems/14.lean#L29 
Has a related concept. Perhaps it would be cleaner to move `allUniqueSums` (suitably generalized to `AddCommMonoid`) to ForMahlib and then just define `HasNoUniqueRepresentation A = allUniqueSums A = ∅`

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 2]
```diff
@@ -0,0 +1,109 @@
...
+  ∀ a₁ ∈ A, ∀ a₂ ∈ A, ∃ b₁ ∈ A, ∃ b₂ ∈ A,
+    a₁ + a₂ = b₁ + b₂ ∧ ¬((a₁ = b₁ ∧ a₂ = b₂) ∨ (a₁ = b₂ ∧ a₂ = b₁))
+
+/--
+m(p) in [Be23]: the size of the smallest set $A \subset \mathbb{Z} / p\mathbb{Z}$ (with at least
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]:
```suggestion
This is $m(p)$ in [Be23]: the size of the smallest set $A \subset \mathbb{Z} / p\mathbb{Z}$ (with at least
```

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 3]
```diff
@@ -0,0 +1,109 @@
...
+
+/-- Propose a better upper bound along primes. -/
+@[category research open, AMS 5 11]
+theorem green_27.upper :
+    let ans := (answer(sorry) : ℕ → ℝ)
+    (ans =o[primesAtTop] upperBest) ∧ (m =O[primesAtTop] ans) := by
+  sorry
+
+/--
+$m(p) \geq \omega(p) \log p$ for some function $\omega(p)$ tending to infinity [Be23, Theorem 3].
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]:
```suggestion
We have $m(p) \geq \omega(p) \log p$ for some function $\omega(p)$ tending to infinity [Be23, Theorem 3].
```

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 4]
```diff
@@ -0,0 +1,109 @@
...
+  m =O[primesAtTop] upperBest := by
+  sorry
+
+/-- Previous best-known lower bound [Be23]. -/
+@[category research solved, AMS 5 11]
+theorem green_27.variants.previous_lower :
+  (fun p ↦ Real.log (p : ℝ)) =O[primesAtTop] m := by
+  sorry
+
+/-- Previous best-known upper bound [Be23]. -/
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]:
```suggestion
/-- Previous best-known upper bound $m(p) \ll \sqrt{p}$ from [Be23].-/
```

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 5]
```diff
@@ -0,0 +1,109 @@
...
+      ω p * Real.log (p : ℝ) ≤ m p := by
+  sorry
+
+/-- $m(p) \ll (\log p)^2$ [Be23, Theorem 5]. -/
+@[category research solved, AMS 5 11]
+theorem green_27.variants.upper_be23 :
+  m =O[primesAtTop] upperBest := by
+  sorry
+
+/-- Previous best-known lower bound [Be23]. -/
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]:
```suggestion
/-- Previous best-known lower bound $\log p \ll m(p)$ from [St76]. -/
```

Please check that I got the right reference here

File: FormalConjectures/GreensOpenProblems/27.lean [hunk 6]
```diff
@@ -0,0 +1,109 @@
...
+$m(p) \geq \omega(p) \log p$ for some function $\omega(p)$ tending to infinity [Be23, Theorem 3].
+-/
+@[category research solved, AMS 5 11]
+theorem green_27.variants.lower_be23 :
+  ∃ ω : ℕ → ℝ, Tendsto ω primesAtTop atTop ∧
+    ∀ᶠ p in primesAtTop,
+      ω p * Real.log (p : ℝ) ≤ m p := by
+  sorry
+
+/-- $m(p) \ll (\log p)^2$ [Be23, Theorem 5]. -/
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/27.lean]:
```suggestion
/-- Upper bound: $m(p) \ll (\log p)^2$ [Be23, Theorem 5]. -/
```

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 5 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: Good catch, source is correct 👍 Thank you!

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 2 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: Done ✅ !
PS: somehow I couldn't apply your commit from the GUI directly, maybe because I merged main first, unclear.. 🤔

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 3 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: Done! Thank you

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 6 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: Done!

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: Done!

File: FormalConjectures/GreensOpenProblems/27.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: @mo271  Nice, thank you for drawing that connection.

What do you think of e2d24b1?

Checked both build fine:
```lean
$ lake build FormalConjectures/GreensOpenProblems/27.lean 
Build completed successfully (7975 jobs).

$ lake build FormalConjectures/ErdosProblems/14.lean 
Build completed successfully (7975 jobs).
```

Comment (mo271) [reply FormalConjectures/GreensOpenProblems/27.lean]: Alsmost perfect, but I would also move the definition of `HasNoUniqueRepresentation`
in anticipation that other problems might require it in the future

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/27.lean]: @mo271 Done! :white_check_mark: 
Also removed the extra `import` and checked it builds fine.

**Comment by mo271** [comment]
Thanks again!
